US07897607B2
3-(2,4-Dimethlyphenyl)-6-dipropylamino-5-methyl-2,5-dihydro-4H-pyrazolo[3,4-d]pyrmidin-4-one
To a Parr flask was added 0.14 g (0.31 mmol) of 2-benzyl-3-(2,4-dimethylphenyl)-6-dipropylamino-5-methyl-2,5-dihydro-4H-pyrazolo[3,4-d]pyrmidin-4-one and 30 ml of ethanol, followed by 0.10 g of 20 palladium hydroxide. The flask was purged with hydrogen and pressurized to 50 psig hydrogen and shaken. After complete reaction, the mixture was filtered through GF/F paper and the filtrate concentrated under reduced pressure. The residue was purified via biotage eluting with 50% ethyl acetate/hexanes to afford 0.092 g (82.47%) of product.

reactant | 2-benzyl-3-(2,4-dimethylphenyl)-6-dipropylamino-5-methyl-2,5-dihydro-4H-pyrazolo[3,4-d]pyrmidin-4-one | 0.31 mmol, 0.14 g | C(C1=CC=CC=C1)N1N=C2N=C(N(C(C2=C1C1=C(C=C(C=C1)C)C)=O)C)N(CCC)CCC | C27H33N5O
catalyst | palladium hydroxide | [OH-].[Pd+2].[OH-]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(2,4-Dimethlyphenyl)-6-dipropylamino-5-methyl-2,5-dihydro-4H-pyrazolo[3,4-d]pyrmidin-4-one | 0.092 g, 82.47% | CC1=C(C=CC(=C1)C)C=1NN=C2N=C(N(C(C21)=O)C)N(CCC)CCC | C20H27N5O
